US05262415
(a) 4-Phenylamino-3-nitropyridine
4-Chloro-3-nitropyridine (1.50 g, 9.46 mmol) and aniline (2.0 ml, 21.9 mmol) were dissolved in 10 ml of 1,4-dioxane, and 2 ml of triethylamine was added thereto, followed by reaction at 80° to 90° C. for 2 hours. Then, the solvent was removed by distillation under reduced pressure, and 10 ml of hexane was added to the residue to wash it. The solvent was removed by decantation. The residue was further similarly treated with 10 ml of ether. The residue was purified by silica gel column chromatography [eluent: hexane:ethyl acetate=2:1 (v/v)]to obtain 1.41 g of a yellow solid (yield: 68.8%).

reactant | 4-Chloro-3-nitropyridine | 9.46 mmol, 1.50 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | aniline | 21.9 mmol, 2.0 ml | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | hexane | CCCCCC | C6H14
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Phenylamino-3-nitropyridine | 1.41 g, yield: 68.8% | C1(=CC=CC=C1)NC1=C(C=NC=C1)[N+](=O)[O-] | C11H9N3O2
